US08686150B2
1-Benzyl-5,5-diethyl-2,2-dimethyl-piperazine was synthesized in analogy to 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane starting from 3-(aminomethyl)pentane-3-amine and acetone cyanohydrin.

reactant | 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane | C(C1=CC=CC=C1)N1C2(CCCC2)CNC(C1)(C)C | C17H26N2
reactant | 3-(aminomethyl)pentane-3-amine | NCC(CC)(CC)N | C6H16N2
reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
product | 1-Benzyl-5,5-diethyl-2,2-dimethyl-piperazine | C(C1=CC=CC=C1)N1C(CNC(C1)(CC)CC)(C)C | C17H28N2
